US08703941B2
A solution of 10,12-dichloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraene (264 mg, 1.08 mmol, 1.00 equiv) in DMF (15 mL) was added 1-N,1-N-dimethylcyclohexane-1,4-diamine hydrochloride (270 mg, 1.51 mmol, 1.40 equiv) and potassium carbonate (450 mg, 3.26 mmol, 3.00 equiv) was stirred overnight at 80° C. in an oil bath under nitrogen. The resulting solution was diluted with of EtOAc and washed with of brine. The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to provide the resulted 4-N-[10-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine (300 mg, 79%) as a yellow solid. LC-MS: (ES, m/z) 252 (M+H+).

reactant | 10,12-dichloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraene | 1.08 mmol, 264 mg, 1.00 equiv | ClC1=NC=2SC=3CCCC3C2C(=N1)Cl | C9H6Cl2N2S
reactant | 1-N,1-N-dimethylcyclohexane-1,4-diamine hydrochloride | 1.51 mmol, 270 mg, 1.40 equiv | Cl.CN(C1CCC(CC1)N)C
reactant | potassium carbonate | 3.26 mmol, 450 mg, 3.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-N-[10-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine | 300 mg, 79% | ClC1=NC=2SC=3CCCC3C2C(=N1)NC1CCC(CC1)N(C)C | C17H23ClN4S
